US05359055
The procedure of Example 41 was repeated except that 5.5 mg (0.01 mmole) of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-methoxycarbonyloxypregn-5-en-3β-yl acetate was used in lieu of 4.9 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-hydroxypregna-5-en-3β-yl acetate to give 3.4 mg of 3β-acetoxy-1α,2α-epoxy-7α-methoxycarbonyloxypregn-5-ene-20-carbaldehyde (yield: 74%).

reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-methoxycarbonyloxypregn-5-en-3β-yl acetate | 0.01 mmole, 5.5 mg | C(C)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C)C5OCC(CO5)(C)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C)OC(=O)OC | C31H46O8
reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxy-7α-hydroxypregna-5-en-3β-yl acetate | 4.9 mg | C(C)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C)C5OCC(CO5)(C)C)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C)O | C29H44O6
product | 3β-acetoxy-1α,2α-epoxy-7α-methoxycarbonyloxypregn-5-ene-20-carbaldehyde | 3.4 mg, yield: 74% | C(C)(=O)O[C@@H]1CC2=C[C@H]([C@H]3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@]2([C@@H]2[C@H]1O2)C)C)OC(=O)OC | C26H36O7
